US08293856B2
(iii) Synthesis of 6,6-dibenzylfulvene
In an atmosphere of nitrogen, 8.0 g (121.0 mmol) of cyclopentadiene and 100 ml of dehydrated THF were placed in a 500 ml three-necked flask, and they were stirred. This mixed solution was cooled in an ice bath, and to the mixed solution was added 80 ml (125.6 mmol) of a hexane solution of n-butyllithium having a concentration of 15.7 mol/liter. Thereafter, the mixture was stirred at room temperature for 3 hours, and the resulting white slurry was cooled in an ice bath, followed by adding a solution obtained by dissolving 25.0 g (118.0 mmol) of 1,3-diphenyl-2-propanone in 50 ml of dehydrated THF. Thereafter, the mixture was stirred at room temperature for 12 hours, and the resulting yellow solution was quenched with a saturated NH4Cl aqueous solution. Then, 100 ml of hexane was added to extract a soluble matter, and this organic phase was washed with water and a saturated saline solution, followed by drying using magnesium sulfate. Then, the solvent was distilled off, and the residue was purified by column chromatography to obtain a desired product of a yellow solid.

reactant | cyclopentadiene | 121.0 mmol, 8.0 g | C1=CC=CC1 | C5H6
reactant | hexane | 125.6 mmol, 80 ml | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,3-diphenyl-2-propanone | 118.0 mmol, 25.0 g | C1(=CC=CC=C1)CC(CC1=CC=CC=C1)=O | C15H14O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 6,6-dibenzylfulvene | C(C1=CC=CC=C1)C(=C1C=CC=C1)CC1=CC=CC=C1 | C20H18
